US07632838B2
2-{[1-(3,5-dichloropyridin-4-yl)piperidin-4-yl]sulfonyl}quinoline
Using the procedure from Example 7A, Step 7E, 2-(piperidin-4-ylsulfonyl)quinoline (150 mg, 0.51 mmol) was reacted with 3,4,5-trichloropyridine (182 mg, 1.0 mmol) to afford the title compound (34 mg), an off-white solid, in 16% yield.

reactant | 2-(piperidin-4-ylsulfonyl)quinoline | 0.51 mmol, 150 mg | N1CCC(CC1)S(=O)(=O)C1=NC2=CC=CC=C2C=C1 | C14H16N2O2S
reactant | 3,4,5-trichloropyridine | 1.0 mmol, 182 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
product | 2-{[1-(3,5-dichloropyridin-4-yl)piperidin-4-yl]sulfonyl}quinoline | 34 mg, 16% yield | ClC=1C=NC=C(C1N1CCC(CC1)S(=O)(=O)C1=NC2=CC=CC=C2C=C1)Cl | C19H17Cl2N3O2S
